US04861798
9(4-Hexyloxyphenyl)nonanohydroxamic acid
To a cold, stirring suspension of 1.2 gms hydroxylamine hydrochloride and 1.7 gms sodium carbonate in 40 ml CH2Cl2 was added dropwise 4.2 gms 9(4-hexyloxyphenyl)nonanoyl chloride. The mixture was stirred for 1/2 hr in the cold, then 2 ml water was added, and the reaction was stirred at room temperature overnight. The suspension was then diluted with CH2Cl2, washed three times with water and once with NaCl solution, then dried over MgSO4. The drying agent was filtered off and the solvent was removed in vacuo to give a solid which was crystallized from CHCl3 :hexanes and then hexanes. Impurities were still present by thin layer chromatography, so the solid was dissolved in 3:1 benzene:hexanes, shaken with 150 gms silica gel, and the silica gel washed with ethyl acetate. The solid remaining on evaporation of the solvent was purified by column chromatography on silica gel with 30% ethyl acetate:CHCl3. The main fraction had Rf=0.4 by thin layer chromatography. The residue from the collected fractions was crystallized twice from CH2Cl2 to give 0.45 gms product of m.p. 94°-6°.

reactant | hydroxylamine hydrochloride | 1.2 gms | Cl.NO
reactant | sodium carbonate | 1.7 gms | C([O-])([O-])=O.[Na+].[Na+]
reactant | 9(4-hexyloxyphenyl)nonanoyl chloride | 4.2 gms | C(CCCCC)OC1=CC=C(C=C1)CCCCCCCCC(=O)Cl | C21H33ClO2
reactant | water | 2 ml | O | H2O
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
product | 9(4-Hexyloxyphenyl)nonanohydroxamic acid | 0.45 gms | C(CCCCC)OC1=CC=C(C=C1)CCCCCCCCC(=O)NO | C21H35NO3
